US05104952
Preparation of bis(4-pentenyl)mercury: To a solution of 4-pentenyl magnesium bromide, prepared from 25 g of 1-bromo-4-pentene (169 mmole) and 5 g of magnesium (208 mmole) in 40 mL of tetrahydrofuran, was added dropwise at 50° C. with stirring a solution of 25.2 g of mercuric chloride (93 mmole) in 50 mL of tetrahydrofuran. After stirring for 2 hours at 60° C., the reaction mixture was hydrolyzed with water at 0°-5° C. The organic layer was separated from aqueous layer; the product was distilled to give bis-3-butenyl mercury in 67% yield. The identity of the compound was confirmed by gas chromatography and 1H NMR.

reactant | bis(4-pentenyl)mercury | C(CCC=C)[Hg]CCCC=C
reactant | 4-pentenyl magnesium bromide | C(CCC=C)[Mg]Br
reactant | 1-bromo-4-pentene | 169 mmole, 25 g | BrCCCC=C | C5H9Br
reactant | magnesium | 208 mmole, 5 g | [Mg] | Mg
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | bis-3-butenyl mercury | 67% yield | C(CC=C)[Hg]CCC=C | InChI=1S/2C4H7.Hg/c2*1-3-4-2;/h2*3H,1-2,4H2;
